US04831151
A solution of 2.42 g (10 mmol) of 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole is treated with 2.42 g (10 mmol) of p-dimethylaminophenacyl bromide. After stirring at 40° for 30 minutes the product is crystallized out by the addition of ether and recrystallized from methylene chloride/ether. There is obtained 3-[p-(dimethylamino)phenacyl]-1-[[p-(dimethylamino)benzylidene]-amino]-2-ethylimidazolium bromide of melting point 247°.

reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole | 10 mmol, 2.42 g | CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C | C14H18N4
reactant | p-dimethylaminophenacyl bromide | 10 mmol, 2.42 g | CN(C1=CC=C(C(CBr)=O)C=C1)C | C10H12BrNO
product | 3-[p-(dimethylamino)phenacyl]-1-[[p-(dimethylamino)benzylidene]-amino]-2-ethylimidazolium bromide | [Br-].CN(C1=CC=C(C(CN2C(=[N+](C=C2)N=CC2=CC=C(C=C2)N(C)C)CC)=O)C=C1)C | InChI=1S/C24H30N5O.BrH/c1-6-24-28(18-23(30)20-9-13-22(14-10-20)27(4)5)15-16-29(24)25-17-19-7-11-21(12-8-19)26(2)3;/h7-17H,6,18H2,1-5H3;1H/q+1;/p-1
